US08247430B2
4-[1-Methyl-1-(4-amino-phenyl)-ethyl]-3,6-dihydro-2H-pyridine-1-carboxylic Acid Ethyl Ester
4-[1-Methyl-1-(4-nitro-phenyl)-ethyl]-3,6-dihydro-2H-pyridine-1-carboxylic acid ethyl ester was dissolved in EtOH (150 mL) and suspended with Pd/C (10%, 1 g). The reaction flask was equipped with a balloon filled with H2. The hydrogenation was continued for 3 days. The mixture was filtered through a layer of Celite® and concentrated in vacuo to provide the desired compound as a light brown oil.

reactant | 4-[1-Methyl-1-(4-nitro-phenyl)-ethyl]-3,6-dihydro-2H-pyridine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCC(=CC1)C(C)(C1=CC=C(C=C1)[N+](=O)[O-])C | C17H22N2O4
solvent | EtOH | 150 mL | CCO | C2H6O
catalyst | Pd/C | 1 g | [Pd] | Pd
product | 4-[1-Methyl-1-(4-amino-phenyl)-ethyl]-3,6-dihydro-2H-pyridine-1-carboxylic Acid Ethyl Ester | C(C)OC(=O)N1CCC(=CC1)C(C)(C1=CC=C(C=C1)N)C | C17H24N2O2
